US05750213
First, 2.3 g of 2,3-difluoro-4'-[8,8-bis(6-hydroxyhexyl)octyl]oxybiphenyl, 0.8 g of acrylic acid, 2.9 g of triphenylphosphine, and 50 ml of tetrahydrofuran were placed in a 100 ml flask. Then, 1.93 g of ethyl azodicarboxylate was added dropwise to the reaction mixture under ice water cooling. Thereafter, the reaction mixture was allowed to warm to room temperature and stirred for 2 hours. The reaction mixture was concentrated, and the residue was purified by silica gel column chromatography (eluent: benzene) to obtain 1.31 g of 2,3-difluoro-4'-[8,8-bis(6-acryloyloxyhexyl)octyl]oxybiphenyl (Y: 47.1%). The compound thus obtained was liquid at room temperature. The compound had a purity of 99.5% by HPLC and 1 spot by TLC.

reactant | 2,3-difluoro-4'-[8,8-bis(6-hydroxyhexyl)octyl]oxybiphenyl | 2.3 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCC(CCCCCCO)CCCCCCO | C32H48F2O3
reactant | acrylic acid | 0.8 g | C(C=C)(=O)O | C3H4O2
reactant | triphenylphosphine | 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | 1.93 g | N(=NC(=O)[O-])C(=O)OCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,3-difluoro-4'-[8,8-bis(6-acryloyloxyhexyl)octyl]oxybiphenyl | 1.31 g, 47.1% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCC(CCCCCCOC(C=C)=O)CCCCCCOC(C=C)=O | C38H52F2O5
